US06451842B1
To a mixture of (R)-1-(3-amino-4-chlorobenzyl)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (44.9 mg), methanol (0.95 mL), acetic acid (0.05 mL), and 37% aqueous HCHO solution (0.15 mL) was added NaBH3CN (38 mg). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature and evaporated. To the residue was added 2 N aqueous NaOH solution and ethyl acetate, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried and concentrated, and the residue was loaded onto Varian™ SCX column and washed with CH3OH. Product was eluted off using 2 N NH3 in CH3OH and concentrated. The residue was dissolved in 50% conc. HCl/dioxane and the solution was stirred at room temperature for 1 h. The reaction mixture was adjusted to pH 10 with 5 N aqueous NaOH solution and extracted with ethyl acetate (2 times). The combined extracts were dried over Na2SO4, filtered, and evaporated. Preparative TLC (SiO2, 20% MeOH/AcOEt) gave (R)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]-1-{4-chloro-3-(dimethylamino)benzyl}pyrrolidine (Compound No. 2133). (10.9 mg, 28%): The purity was determined by RPLC/MS (95%); ESI/MS m/e 498.3 (M++H, C23H27ClF3N5O2).

reactant | (R)-1-(3-amino-4-chlorobenzyl)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | 44.9 mg | NC=1C=C(CN2C[C@@H](CC2)NC(CNC(C2=C(C=CC(=C2)C(F)(F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1Cl | C26H31ClF3N5O4
reactant | methanol | 0.95 mL | CO | CH4O
reactant | HCHO | 0.15 mL | C=O | CH2O
reactant | NaBH3CN | 38 mg | [BH3-]C#N.[Na+]
solvent | acetic acid | 0.05 mL | C(C)(=O)O | C2H4O2
product | (R)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]-1-{4-chloro-3-(dimethylamino)benzyl}pyrrolidine | NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=CC(=C(C=C2)Cl)N(C)C)C=C(C=C1)C(F)(F)F | C23H27ClF3N5O2
